US08487108B2
At −78° C., (2S)-methyl 2-amino-3-(tetrahydro-2H-pyran-2-yl)propanoate (1.84 g, 7.74 mmol) in THF (16 mL) was treated with lithium aluminum hydride (8 mL, 1 M in THF) at a rate such that the temperature remained below −65° C. The reaction was allowed to warm to rt. Upon completion, the reaction was cooled to 0° C. and quenched by dropwise addition of water, avoiding a rise in temperature above 2° C., the slurry was then stirred for an additional 1 h. The emulsion was dispersed by stirring with 1 M aq NaOH for 30 min, allowing warming to rt. Celite was added and stirred. The slurry was filtered through celite and washed several times with diethyl ether. The filtrate was concentrated to provide (2S)-2-amino-3-(tetrahydro-2H-pyran-2-yl)propan-1-ol as an oil and used without any further purification. A solution of (2S)-2-amino-3-(tetrahydro-2H-pyran-2-yl)propan-1-ol in THF (20 mL) and water (20 mL) was cooled to 0° C. Potassium carbonate (3.2 g, 23.2 mmol) was added, followed by di-tert-butyl dicarbonate (2.2 g, 10.06 mmol). The reaction was subsequently warmed to rt and stirred for 2 h. The aqueous layer was extracted 3 times with EtOAc. The combined organic layers were washed with brine, dried over MgSO4, and filtered. After solvent removal the crude material was purified by chromatography on silica gel (EtOAc/Hex) to afford tert-butyl (2S)-1-hydroxy-3-(tetrahydro-2H-pyran-2-yl)propan-2-ylcarbamate (1.41 g) as an oil. MS m/z 282 (M+Na).

reactant | (2S)-methyl 2-amino-3-(tetrahydro-2H-pyran-2-yl)propanoate | 7.74 mmol, 1.84 g | N[C@H](C(=O)OC)CC1OCCCC1 | C9H17NO3
reactant | lithium aluminum hydride | 1 M, 8 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 16 mL | C1CCOC1 | C4H8O
product | (2S)-2-amino-3-(tetrahydro-2H-pyran-2-yl)propan-1-ol | N[C@H](CO)CC1OCCCC1 | C8H17NO2
